US05008276
3-Methoxyphenol (124 g) and anhydrous potassium carbonate (69 g) were heated together with stirring in dry DMF (500 ml) at 80° C. under an atmosphere of nitrogen. After 45 minutes, the greyish solution was cooled and 2-chloronicotinonitrile (138.5 g) and copper bronze (10 g) were added (washed in with 100 ml DMF). The resulting brown reaction mixture was heated to 125°-130° C. After 21/2 hours, the reaction mixture was cooled and filtered to remove excess copper bronze and undissolved solid material. The resulting solution was added to water (3 liters) and left to stand overnight. The resulting precipitate was filtered, washed with water then dissolved in ether. The ether solution was dried, filtered and evaporated to afford 2-(3-methoxyphenoxy)-3-cyanopyridine as an off-white solid (203.5 g, 90%).

reactant | 3-Methoxyphenol | 124 g | COC=1C=C(C=CC1)O | C7H8O2
reactant | potassium carbonate | 69 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloronicotinonitrile | 138.5 g | ClC1=C(C#N)C=CC=N1 | C6H3ClN2
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
catalyst | copper bronze | 10 g | [Cu] | Cu
product | 2-(3-methoxyphenoxy)-3-cyanopyridine | 203.5 g, 90% | COC=1C=C(OC2=NC=CC=C2C#N)C=CC1 | C13H10N2O2
